US06677383B1
(Z)-1-Cyano-1-(3-pyridyl)-2-(3-hydroxy-4-methoxyphenyl)ethene (DMU-202)
A mixture of 4-methoxy-3-hydroxybenzaldehyde (0.5 g, 3.3 mmoles), 3-pyridylacetonitrile (0.35 ml, 3.3 mmoles) and 50% w/v of aqueous NaOH (3 ml) in methanol (10 ml) was stirred at room temperature for 30 minutes. The yellow solid that precipitated was filtered, washed with cooled methanol (1 ml), cooled CH2Cl2 (5 ml) and dried under vacuum over P2O5 to yield 0.5 g (60%) of the title compound as a yellow solid. 1H-NMR (CD3OD) 8.8 (m, 1H), 8.5 (m, 1H), 8.1 (m, 1H), 7.7 (s, 1H), 7.5 (m, 1H), 7.3 (d, 1H), 7.2 (d, 1H), 6.8 (d, 1H). Mass Spectrum m/e (M+1) 253.

reactant | 4-methoxy-3-hydroxybenzaldehyde | 3.3 mmoles, 0.5 g | COC1=C(C=C(C=O)C=C1)O | C8H8O3
reactant | 3-pyridylacetonitrile | 3.3 mmoles, 0.35 ml | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | NaOH | 3 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (Z)-1-Cyano-1-(3-pyridyl)-2-(3-hydroxy-4-methoxyphenyl)ethene | 0.5 g, 60% | C(#N)\C(=C/C1=CC(=C(C=C1)OC)O)\C=1C=NC=CC1 | C15H12N2O2
